US06174898B1
(R)-1-(3-((2,2-Diphenylethenyl)oxy)-1-propyl)-3-piperidinecarboxylic acid hydrochloride
(R)-1-(3-((2,2-Diphenylethenyl)oxy)propyl)-3-piperidinecarboxylic acid ethyl ester (0.60 g, 0.0015 mol, prepared similarly to the method described in Example 50) was dissolved in ethanol (5 ml) and 12 N sodium hydroxide solution (0.4 ml) was introduced. After stirring the solution at room temperature for 2 h, 37% hydrochloric acid (ca. 0.52 ml) was added with cooling followed by dichloromethane (250 ml). The mixture was dried (Na2SO4). Filtration and evaporation 15 of the filtrate gave a residue, which was co-evaporated with acetone. The solid product was triturated with acetone, collected by filtration and dried in vacuo to give the title compound (0.30 g, 50%).

reactant | (R)-1-(3-((2,2-Diphenylethenyl)oxy)propyl)-3-piperidinecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1CN(CCC1)CCCOC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H31NO3
reactant | sodium hydroxide | 12 N, 0.4 ml | [OH-].[Na+]
reactant | hydrochloric acid | ca. 0.52 ml | Cl | ClH
reactant | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | (R)-1-(3-((2,2-Diphenylethenyl)oxy)-1-propyl)-3-piperidinecarboxylic acid hydrochloride | 0.30 g, 50% | Cl.C1(=CC=CC=C1)C(=COCCCN1C[C@@H](CCC1)C(=O)O)C1=CC=CC=C1 | InChI=1S/C23H27NO3.ClH/c25-23(26)21-13-7-14-24(17-21)15-8-16-27-18-22(19-9-3-1-4-10-19)20-11-5-2-6-12-20;/h1-6,9-12,18,21H,7-8,13-17H2,(H,25,26);1H/t21-;/m1./s1
